US07300935B2
Production of tert-butyl(3-ethoxy-2,2-dimethylpropoxy)dimethylsilane
To a solution of 3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropan-1-ol (Registry No. 117932-70-4) (2.18 g, 10 mmol) in THF (30 ml) were added triethylamine (1.67 ml, 12 mmol) and methanesulfonyl chloride (0.85 ml, 11 mmol) under ice cooling. The reaction liquid was stirred at room temperature for 30 minutes, and to the reaction liquid was added an aqueous solution of sodium bicarbonate.

reactant | 3-{[tert-butyl(dimethyl)silyl]oxy}-2,2-dimethylpropan-1-ol | [Si](C)(C)(C(C)(C)C)OCC(CO)(C)C | C11H26O2Si
reactant | triethylamine | 12 mmol, 1.67 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 11 mmol, 0.85 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 30 ml | C1CCOC1 | C4H8O
product | tert-butyl(3-ethoxy-2,2-dimethylpropoxy)dimethylsilane | C(C)(C)(C)[Si](C)(C)OCC(COCC)(C)C | C13H30O2Si
